US08859534B2
Ethyl 2-(6-methoxypyridin-2-yl)acetate
A solution of diethyl 2-(6-methoxypyridin-2-yl)malonate (1.0 g, 3.74 mmol) and hydrochloric acid (1 M) (20 mL, 20.0 mmol) in ethanol (10 mL) was heated at 65° C. overnight. The solvent was removed under reduced pressure. The residue was dissolved in ethanol (15 mL) and hydrochloric acid (conc.) (0.5 mL, 6.00 mmol) was added. The reaction mixture was heated at 65° C. for 4 h. The solvent was removed under reduced pressure. Ethyl acetate and saturated NaHCO3 aqueous solution were added. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried (Na2SO4) and concentrated to give the product. Yield: 0.69 g (94%).

reactant | diethyl 2-(6-methoxypyridin-2-yl)malonate | 3.74 mmol, 1.0 g | COC1=CC=CC(=N1)C(C(=O)OCC)C(=O)OCC | C13H17NO5
reactant | hydrochloric acid | 20.0 mmol, 1 M, 20 mL | Cl | ClH
reactant | hydrochloric acid | 6.00 mmol, 0.5 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Ethyl 2-(6-methoxypyridin-2-yl)acetate | COC1=CC=CC(=N1)CC(=O)OCC | C10H13NO3
